US07696223B2
a) 7-Hydroxy-4-(4-morpholin-4-yl-phenyl)-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester
A mixture of 4-bromo-7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester (230 mg, 0.61 mmole), 4-morpholinophenylboronic acid (252 mg, 1.22 mmole), cesium carbonate (596 mg, 1.83 mmole) and tetrakis(triphenylphosphine)-palladium (70 mg, 0.06 mmole) in dioxane (3 ml) was refluxed for 18 h before it was cooled to room temperature, quenched with water and filtered. The filtrate was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and dichloromethane to give the title compound as a white solid (57 mg). MS: (+) m/z 462.35 (M+H+)

reactant | 4-bromo-7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester | 0.61 mmole, 230 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)Br)SC(=N2)C2=CC=CC=C2)O | C15H11BrN2O3S
reactant | 4-morpholinophenylboronic acid | 1.22 mmole, 252 mg | O1CCN(CC1)C1=CC=C(C=C1)B(O)O | C10H14BNO3
reactant | cesium carbonate | 1.83 mmole, 596 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium | 0.06 mmole, 70 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 7-Hydroxy-4-(4-morpholin-4-yl-phenyl)-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester | 57 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C1=CC=C(C=C1)N1CCOCC1)SC(=N2)C2=CC=CC=C2)O | C25H23N3O4S
